US04518804
(A) Preparation of 4-(2-chloro-1,1,2-trifluoroethoxy)-2,5-dichlorobenzenamine
A solution of 25 g (0.12 mole) of 4-amino-2,5-dichlorophenol hydrochloride in 200 ml dimethylformamide was placed in a 500 ml 3-necked round bottom flask, fitted with a mechanical stirrer, thermometer, reflux condenser and sparger, and 13.4 g (0.24 mole) of potassium hydroxide pellets ground to powder were added. The mixture was heated to 90° C. with stirring under a nitrogen blanket. Then 21 g (0.18 mole) chlorotrifluoroethylene was bubbled in, while stirring and heating at 90° to 100° C., in about 1/2 hour. Stirring was continued for 5 minutes, the mixture cooled in an ice water bath, 500 ml of water were added and the resulting mixture extracted with 250 ml methylene dichloride and then 100 ml methylene dichloride. The extracts were combined, washed with 250 ml water and the methylene dichloride removed in a rotary evaporator. The residue was distilled through a 1"×10" Vigreaux. The cut from 110° to 120° C. at 2 mm pressure was a light tan liquid. Weight 21 grams. Yield was 59 percent. NMR analysis verified structure.

reactant | 4-amino-2,5-dichlorophenol hydrochloride | 0.12 mole, 25 g | Cl.NC1=CC(=C(C=C1Cl)O)Cl
reactant | potassium hydroxide | 0.24 mole, 13.4 g | [OH-].[K+]
reactant | chlorotrifluoroethylene | 0.18 mole, 21 g | ClC(=C(F)F)F | C2ClF3
reactant | water | 500 ml | O | H2O
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 4-(2-chloro-1,1,2-trifluoroethoxy)-2,5-dichlorobenzenamine | Yield was 59 percent | ClC(C(OC1=CC(=C(C=C1Cl)N)Cl)(F)F)F | C8H5Cl3F3NO
